Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness: Mr ___ is a ___ year old male 
with one week of acute onset abdominal pain. He describes the 
pain as colicy and it lasts seconds. The pain began one week 
ago. He reports chills and cold sweats. He denies any subjetive 
fevers. He decided to go to the ED on ___ morning for 
further evaluation. In the ED they performed a CT exam and found 
isolated elevated liver enzymes. The CT showed mildly dilated 
and fluid-filled loops of jejunum that could be seen with a 
focal ileus which may reflect a mild inflammatory process such 
as gastroenteritis. He was discharged home.  
.
On ___ night he again had an episode of severe pain that 
woke him up at night and came to the ED again for evaluation. In 
the ED they performed a KUB which showed air-fluid levels which 
are non-specific without evidence for bowel dilatation; 
obstruction was not entirely excluded however. They also 
performed an ultrasound of the liver which showed no evidence of 
acute cholecystitis. The exam also showed fatty infiltration of 
the liver, although other forms of more advanced liver disease, 
including cirrhosis, could not be excluded. 
. 
Since his admission on ___, he has not had a bowel 
movement. He reporets that prior to two days ago his stool was 
normal without melena or blood. He denies any diarrhea or 
constipation. He also has been unable to eat for the past two 
days. He says he has lost his appetite. He says his lack of 
appetite is not secondary to nausea or abdominal pain. The 
patient says he occasionally has nausea and feels like vomiting, 
but has not vomited since his pain began one week ago. The pain 
returned again last night and he decided to come to the ED for 
IV antibiotics. 
. 
Of note he has been diagnosed with H. pylori in the past but did 
not complete a full treatment course. 
.  
Initial VS in the ED: 96.4 66 165/110 18 100% 
.
Patient was given 2L NS and morphine 2mg and required oxygen for 
desaturation to 91% afterward. He was admitted for futher 
workup. 
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
Past Medical History:  
- Appendectomy
- GERD

 
Social History:
___
Family History:
Family History: Non contributory
 
Physical Exam:
Exam on Admission
Vitals: T:98 BP:140/90 P:67 R:18 18 O2:98% RA  
General: Alert, oriented, comfortable, moderately obese  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Soft, non-distended, bowel sounds present, tender in 
right upper quadrant and feels bloated bilaterally in left and 
right lower quadrant, no rebound tenderness or guarding  
Ext: Warm, well perfused,  no clubbing, cyanosis or edema

Exam on Discharge
Vitals: T:97.5-98.4 ___ R: 20 O2:96% RA, 
900/700+
General: Alert, oriented, comfortable, moderately obese  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Soft, non-distended, bowel sounds present, tender in 
right upper quadrant but less tender than yesterday. 
Ext: Warm, well perfused,  no clubbing, cyanosis or edema
 
Pertinent Results:
___ 05:30AM BLOOD WBC-9.8 RBC-4.66 Hgb-14.0 Hct-42.5 MCV-91 
MCH-30.1 MCHC-33.0 RDW-12.9 Plt ___
___ 09:05AM BLOOD WBC-10.7 RBC-4.99 Hgb-14.6 Hct-45.3 
MCV-91 MCH-29.3 MCHC-32.3 RDW-13.1 Plt ___
___ 12:10PM BLOOD WBC-11.4* RBC-4.91 Hgb-14.7 Hct-44.9 
MCV-91 MCH-30.0 MCHC-32.8 RDW-13.2 Plt ___
___ 09:05AM BLOOD Neuts-76.2* Lymphs-17.8* Monos-4.7 
Eos-0.9 Baso-0.4
___ 12:10PM BLOOD Neuts-85.3* Lymphs-12.2* Monos-2.2 
Eos-0.2 Baso-0.2
___ 05:30AM BLOOD Plt ___
___ 09:05AM BLOOD Plt ___
___ 09:05AM BLOOD ___ PTT-28.5 ___
___ 12:10PM BLOOD Plt ___
___ 05:30AM BLOOD Glucose-108* UreaN-13 Creat-0.9 Na-136 
K-3.6 Cl-100 HCO3-23 AnGap-17
___ 09:05AM BLOOD Glucose-122* UreaN-14 Creat-0.9 Na-138 
K-3.8 Cl-99 HCO3-25 AnGap-18
___ 12:10PM BLOOD Glucose-111* UreaN-15 Creat-0.8 Na-140 
K-4.2 Cl-103 HCO3-24 AnGap-17
___ 05:30AM BLOOD ALT-70* AST-82* LD(LDH)-215 AlkPhos-66 
TotBili-0.5
___ 09:05AM BLOOD ALT-89* AST-128* AlkPhos-74 TotBili-0.7
___ 12:10PM BLOOD ALT-83* AST-164* AlkPhos-78 TotBili-0.4
___ 09:05AM BLOOD Lipase-30
___ 12:10PM BLOOD Lipase-45
___ 07:20PM BLOOD cTropnT-<0.01
___ 05:30AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.1
___ 07:20PM BLOOD Iron-60
___ 09:05AM BLOOD Albumin-4.9
___ 12:10PM BLOOD Albumin-4.7
___ 07:20PM BLOOD calTIBC-341 Ferritn-253 TRF-262
___ 09:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:24AM BLOOD Lactate-2.1*
 
Brief Hospital Course:
# Elevated LFTs: CT, KUB and RUQ US did not show evidence of 
acute cholecystetis, despite the positive ___ sign. It is 
possible the patient has underlying viral hepatitis, the 
serologies were sent in the ED. We are reassured by downtrending 
LFTs. Iron studies were within normal limits making 
hemochromotosis less likely. The patient felt significant relief 
with his bowel movement, and therefore it is likely he had a 
degree of constipation contributing to his presentation. 
Troponins were negative and EKG was unremarkable making a 
cardiac etiology unlikely. He tolerated food well and his pain 
was significantly improved with minimal need for oxycodone. 
.  
# GERD/H. pylori: Patient has known history of GERD and is 
treated with prilosec with relief of symptoms. He also has a 
history of untreated H. pylory diagnosed in ___. The 
patient was given perscriptions at that time by his PCP but he 
never filled the perscriptions. We started treatment for 
presumed H. pylori with omeprazole 20mg BID, amoxicillin 1g BID 
and clarithromycin 500mg BID for ten days 
.  
# Anxiety: Patient takes sertraline 75mg daily, we will continue 
in house. 
.
# Transition issues: Hepatitis serologies were pending at time 
of discharge. The patient also had stool studies which were 
pending. His LFTs have been trending downward, but he will need 
repeat LFTs once he follows up with his PCP. 

 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from 
PatientFamily/Caregiver.
1. Omeprazole 40 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Sertraline 75 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 20 mg PO BID 
2. Amoxicillin 1000 mg PO Q12H 
RX *amoxicillin 500 mg twice a day Disp #*48 Capsule Refills:*0
3. Clarithromycin 500 mg PO Q12H 
RX *clarithromycin 500 mg twice a day Disp #*19 Tablet 
Refills:*0
4. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Pain 
hold for sedation or rr<12 
RX *oxycodone 5 mg take once if severe pain Disp #*4 Capsule 
Refills:*0
5. Fish Oil (Omega 3) 1000 mg PO BID 
6. Sertraline 75 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID:PRN constipation 
hold for loose stools 
RX *docusate sodium 100 mg daily Disp #*30 Capsule Refills:*0
8. Senna 1 TAB PO BID:PRN constipation 
hold for loose stools 
9. Simethicone 40-80 mg PO QID 
RX *simethicone 180 mg up to four times a day Disp #*60 Capsule 
Refills:*0
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
hold for diarrhea 
RX *polyethylene glycol 3350 17 gram/dose daily Disp #*30 Packet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis complicated by constipation and H. pylori infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___, 

You were admitted to the hospital with abdominal pain and 
elevated liver function tests. We believe your abdominal pain 
may be related to the liver but it could also be due to 
untreated H. pylori infection. We started you on medications to 
treat this infection and you will need to complete a full course 
of treatment. You should take these medications for ten days 
total (last dose on ___. While your liver tests were 
initially midly elevated, they have been trending towards normal 
again. You had no evidence of gall stones but your ultrasound 
and CT scan did show fatty liver.  Some of your blood tests were 
not back yet and we recommend that you discuss these results 
with your primary care doctor and get repeat liver tests next 
week. Overall we were feel that you are safe to go home. 

Because you are experiencing constipation which can also 
contribute to your abdominal pain, we will send you home with 
some medications that will help you have regular bowel 
movements. 

Medicaion Changes
START omeprazole 20mg twice a day, after ___ you can start 
taking your normal home dose of omeprazole once a day (to treat 
H pylori)
START Amoxicillin 1000 mg every 12 hours (last dose on ___ 
to treat H pylori
START Clarithromycin 500 mg every 12 hours (last dose on ___ 
to treat H pylori

Take the following medications if you have constipation
Miralax 
Colace

Take the following medications if you have pain
Oxycodone (note this medication can make you constipated)
Simethicone 

Thank you for the opportunity to participate in your care. 

 
Followup Instructions:
___